US07601856B2
Following the procedure of Example 1, tetrahydro-dibenzofuran-2-ylamine (0.94 g, 5.0 mmol), isobutyryl chloride (0.55 mL, 5.2 mmol), and triethylamine (2.1 mL, 15 mmol) in tetrahydrofuran (20 mL) provided N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-butyramide (0.18 g). Mp 133-135° C.;Anal. Calcd. for C15H17NO2: C, 74.68; H, 7.44; N, 5.44; Found: C, 74.76; H, 7.48; N, 5.41.

reactant | tetrahydro-dibenzofuran-2-ylamine | 5.0 mmol, 0.94 g | C1C(CCC=2OC3=C(C21)C=CC=C3)N | C12H13NO
reactant | isobutyryl chloride | 5.2 mmol, 0.55 mL | C(C(C)C)(=O)Cl | C4H7ClO
reactant | triethylamine | 15 mmol, 2.1 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-butyramide | 0.18 g | C1=C(C=CC=2OC3=C(C21)CCCC3)NC(CCC)=O | C16H19NO2
